US05104884
4-(1H-1,2,4-triazole-1-yl)-7-chloro-quinoline
A mixture of 1.98 g of 4,7-dichloro-quinoline, 1.38 g of 1,2,4-triazole and 10 ml of dimethyl formamide is stirred at 100° C. for 6 hours, whereupon the reaction mixture is poured into 100 ml of water and neutralized with 1 ml of a concentrated ammonium hydroxide solution. The precipitated product is filtered and recrystallized from ethanol. Thus 1.61 g of the desired product are obtained, yield 70%, Mp.: 169°-170° C.

reactant | 4,7-dichloro-quinoline | 1.98 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 1,2,4-triazole | 1.38 g | N1N=CN=C1 | C2H3N3
reactant | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
solvent | water | 100 ml | O | H2O
product | 4-(1H-1,2,4-triazole-1-yl)-7-chloro-quinoline | 1.61 g, yield 70% | N1(N=CN=C1)C1=CC=NC2=CC(=CC=C12)Cl | C11H7ClN4
